US06897231B2
DIETHYL({3-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)](1H-1,2,4-TRIAZOL-5-YL)}METHYL)AMINE
A suspension of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (0.400 g, 1.25 mmol) in 4 mL of anhydrous ethanol was prepared and cooled to 0° C. An excess of a commercial solution of sodium methoxide in methanol (0.858 mL, 4.37 M)) was added followed by 3 equivalents of N-amino-2-(diethylamino)acetamide (0.545 g, 3.75 mmol) as a solid. The reaction mixture was heated to reflux temperature in a sealed tube for 2 days. The reaction was then quenched with water, the pH adjusted to neutral and the crude product extracted with ethyl acetate. The residue was purified by preparative HPLC (0.052 g, 11% yield): 1H NMR (CD3OD) δ 8.70 (s, 1H), 8.11-8.02 (m, 3H), 7.67 (d, 1H), 7.29 (td, 2H), 3.8 (s, 1H), 2.68 (q, 4H), 1.15 (t, 3H); ES-MS (m/z) 365 [M+H]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 1.25 mmol, 0.400 g | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | sodium methoxide | C[O-].[Na+]
reactant | N-amino-2-(diethylamino)acetamide | 3.75 mmol, 0.545 g, 3 equivalents | NNC(CN(CC)CC)=O | C6H15N3O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | methanol | 4.37 M, 0.858 mL | CO | CH4O
product | DIETHYL({3-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)](1H-1,2,4-TRIAZOL-5-YL)}METHYL)AMINE | 11% yield | C(C)N(CC1=NC(=NN1)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F)CC | C20H21FN6
